US08076481B2
KOH liquor (1.04 eq. of 50.4 wt %) was added to a stirred, nitrogen sparged solution of 3-hydroxy-5-[(1S)-2-methoxy-1-methylethoxy]benzoic acid (1 eq.) in undried 1-propanol (4.87 vol.). At the end of the addition, water (0.33 vol.) and toluene (3.43 vol.) were separately added to the resulting slurry. The jacket temperature was raised to 67° C. before being subjected to the following cooling profile: 67° C. to 64° C. over 3 h, 64 to 57° C. over 3 h, 57 to 45° C. over 3 h, and 45 to 20° C. over 3 h. 6 h after the end of this ramp, the jacket temperature was lowered to 0° C. over 3 h, the jacket was foil wrapped and desupersaturation was allowed to complete overnight (>6 h). The slurry was isolated by filtration through an 11 micron filter paper. The cake was sequentially washed twice with an equal weight of an ice-cold solution of toluene (41.79 wt %) in 1-propanol. The cake was dried in a 40° C. house vacuum oven to give 3-hydroxy-5-[(1S)-2-methoxy-1-methylethoxy]benzoic acid potassium salt as tri-hydrate in a typical yield of 93% of theoretical yield.

reactant | KOH | [OH-].[K+]
reactant | 3-hydroxy-5-[(1S)-2-methoxy-1-methylethoxy]benzoic acid | 1 eq. | OC=1C=C(C(=O)O)C=C(C1)O[C@H](COC)C | C11H14O5
reactant | water | O | H2O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | 1-propanol | C(CC)O | C3H8O
product | 3-hydroxy-5-[(1S)-2-methoxy-1-methylethoxy]benzoic acid potassium salt | yield of 93% | [K+].OC=1C=C(C(=O)[O-])C=C(C1)O[C@H](COC)C | InChI=1S/C11H14O5.K/c1-7(6-15-2)16-10-4-8(11(13)14)3-9(12)5-10;/h3-5,7,12H,6H2,1-2H3,(H,13,14);/q;+1/p-1/t7-;/m0./s1
